US04509537
1-(2-Methoxyphenoxycarbonyloxy)-4-butanol
The reaction of 2-methoxyphenyl chloroformate with 1,4-butanediol is conducted on a 0.01 scale employing the same conditions as described in Example IV. A 1.5 g yield of the pure product is obtained as an oil.

reactant | 2-methoxyphenyl chloroformate | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
product | 1-(2-Methoxyphenoxycarbonyloxy)-4-butanol | COC1=C(OC(=O)OCCCCO)C=CC=C1 | C12H16O5
